US09422215B2
In Dioxane/i-PrOH 3:1
Wet Raney Ni 4200 (˜70 mg, 1×10−3 mol, 500 mol %), KOH (37 mg, 7×10−4 mol, 300%) and Lignin type B (40 mg, 2.2×10−4 mol, dry), is weighed into a reaction flask under argon. Degassed Dioxane (3 mL) and i-PrOH (1 mL) is added and the flask is capped with a rubber septa and the mixture is heated (120° C.). The reaction is run for 18 hours and the reaction mixture is cooled. MeOH is added and Nickel was removed with a magnet, and the mixture is neutralized. The reaction mixture is injected into an HPLC-system (GPC).

reactant | KOH | 7×10−4 mol, 37 mg | [OH-].[K+]
reactant | Dioxane | 3 mL | O1CCOCC1 | C4H8O2
reactant | i-PrOH | 1 mL | CC(C)O | C3H8O
catalyst | Ni | 1×10−3 mol, ˜70 mg | [Ni] | Ni
solvent | MeOH | CO | CH4O
product | Dioxane i-PrOH | O1CCOCC1.CC(C)O | InChI=1S/C4H8O2.C3H8O/c1-2-6-4-3-5-1;1-3(2)4/h1-4H2;3-4H,1-2H3
